US08710236B2
To a stirred solution of 4-hydroxy-phenyl acetic acid (10.0 g, 65.72 mmol) in DMF (70 mL) at rt were added Cs2CO3 (47.11 g, 144.5 mmol) and benzyl bromide (17.29 mL, 144.5 mmol). The reaction mixture was stirred overnight at room temperature, heated at 100° C. for 1 h and cooled to rt. The solvent was removed under reduced pressure and poured into H2O. The aqueous solution was extracted with ethyl acetate and the combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was recrystallization in hexanes to afford (4-benzyloxy-phenyl)acetic acid benzyl ester as a yellow solid. (20.5 g, 94%): 1H NMR (300 MHz, CDCl3): δ 7.25-7.34 (m, 10H), 7.14 (d, J=8.4 Hz, 2H), 7.02 (d, J=8.4 Hz, 2H), 5.50 (s, 2H), 5.12 (s, 2H), 3.61 (s, 2H); TLC conditions: Uniplate silica gel, 250 microns; mobile phase=ethyl acetate-hexanes (1:5); Rf=0.8.

reactant | 4-hydroxy-phenyl acetic acid | 65.72 mmol, 10.0 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | Cs2CO3 | 144.5 mmol, 47.11 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 144.5 mmol, 17.29 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | (4-benzyloxy-phenyl)acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H20O3
